US07101880B2
To 1-cyclopentyl-3-methylsulfonylthiourea (200 mg, 0.89 mmol, 2.4 equiv.), 2-amino-N-[1-(benzoxazol-2-ylhydroxymethyl)-propyl]-3-cyclopropylmethanesulfonyl-propionamide (163 mg, 1.0 equiv.), N-methyl-2-chloropyridinium iodide (175 mg, 1.8 equiv.) in 4 mL dichloromethane was added DIPEA (142 mg, 2.8 equiv). The reaction mixture was stirred overnight at ambient temp. The reaction was diluted with ethyl acetate and extracted with saturated sodium bicarbonate, brine and dried over MgSO4. Purification by column chromatography (EtOAC/hexanes) afforded N-[1-(benzoxazol-2-ylhydroxymethyl)propyl]-2-(1-cyclopentylamino-2-methanesulfonylvinylamino)-3-cyclopropylmetanesulfonylpropionamide as a mixture of diastereomers (41 mg, M=584.3 M+1) which was oxidized to the title compound using Dess-Martin Periodane as previously described.

reactant | 1-cyclopentyl-3-methylsulfonylthiourea | 0.89 mmol, 200 mg, 2.4 equiv. | C1(CCCC1)NC(=S)NS(=O)(=O)C | C7H14N2O2S2
reactant | 2-amino-N-[1-(benzoxazol-2-ylhydroxymethyl)-propyl]-3-cyclopropylmethanesulfonyl-propionamide | 163 mg, 1.0 equiv. | NC(C(=O)NC(CC)C(O)C=1OC2=C(N1)C=CC=C2)CS(=O)(=O)CC2CC2 | C18H25N3O5S
reactant | N-methyl-2-chloropyridinium iodide | 175 mg, 1.8 equiv. | [I-].C[N+]1=C(C=CC=C1)Cl
reactant | DIPEA | 142 mg, 2.8 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[1-(benzoxazol-2-ylhydroxymethyl)propyl]-2-(1-cyclopentylamino-2-methanesulfonylvinylamino)-3-cyclopropylmetanesulfonylpropionamide | O1C(=NC2=C1C=CC=C2)C(C(CC)NC(C(CS(=O)(=O)CC2CC2)NC(=CS(=O)(=O)C)NC2CCCC2)=O)O | C26H38N4O7S2
